US07473786B1
2-p-Tolyl-benzo[b]furan (entry 2, Table 2):
The general procedure was used to convert 4-ethynyl-toluene and 2-iodophenol to the title product. Purification by flash chromatography (10% CH2Cl2 in hexanes as the eluent) gave the analytically pure product as a white solid (268 mg, 64% yield). 1H NMR (300 MHz, CDCl3) δ 7.74 (d, J=8.29, 2H), 7.56-7.48 (m, 2H), 7.28-7.17 (m, 4H), 6.93 (s, 1H), 2.37 (s, 3H). 13C NMR (75 MHz, CDCl3) δ 156.16, 154.75, 138.56, 132.85, 129.47, 127.73, 124.86, 123.97, 122.84, 120.72, 111.07, 100.54, 21.36 Anal. Calcd. for C15H12O: C, 86.51; H, 5.81. Found C, 86.34; H, 5.98. m.p.: 124-125° C. (lit., 3126-128° C.).

reactant | 4-ethynyl-toluene | C(#C)C1=CC=C(C=C1)C | C9H8
reactant | 2-iodophenol | IC1=C(C=CC=C1)O | C6H5IO
product | 2-p-Tolyl-benzo[b]furan | C1(=CC=C(C=C1)C1=CC2=C(O1)C=CC=C2)C | C15H12O
